US06939887B2
Synthesis of 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[3-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile
To a solution of 2-oxo-7-(trifluoromethyl)-1-[3-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile (139.5 mg) in N,N-dimethylformamide (5 ml) was added sodium hydride (60%) (38.0 mg). After the mixture was stirred at room temperature for 10 minutes, 2-chlorotriethylamine hydrochloride (89.4 mg) and triethylamine (0.120 ml) were added, and the mixture was stirred with heating at 70° C. for 1.5 hours. To the reaction mixture was added 1N hydrochloric acid, and the mixture was basified with saturated aqueous sodium bicarbonate solution, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title compound (181 mg, quantitative yield).

reactant | 2-oxo-7-(trifluoromethyl)-1-[3-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 139.5 mg | O=C1NC2=C(N1CC1=CC(=CC=C1)C(F)(F)F)C(=CC(=C2)C#N)C(F)(F)F | C17H9F6N3O
reactant | sodium hydride | 38.0 mg | [H-].[Na+]
reactant | 2-chlorotriethylamine hydrochloride | 89.4 mg | CCN(CC)CCCl.Cl
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.120 ml | C(C)N(CC)CC | C6H15N
product | 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[3-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 181 mg, quantitative yield | C(C)N(CCN1C(N(C2=C1C=C(C=C2C(F)(F)F)C#N)CC2=CC(=CC=C2)C(F)(F)F)=O)CC | C23H22F6N4O
